US07855216B2
Step 2: 3-(2-Chloro-4-isopropyl-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
A degassed solution of 3-amino-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (300 mg, 1.4 mmol), trifluoro-methanesulfonic acid 2-chloro-4-isopropyl-phenyl ester (700 mg, 2.3 mmol), Pd2dba3 (63 mg, 0.068 mmol), Xantphos (79 mg, 0.14 mmol) and K3PO4 (0.58 g, 2.7 mmol) in toluene (10 ml) was heated at 120° C. for 18 hours. The reaction mixture was cooled to ambient temperature then filtered through a pad of Celite®. The filtrate was concentrated in vacuo to give a brown gum. The gum was purified by flash chromatography (Si-SPE, DCM:EtOAc, 90:10) to provide the title compound as a yellow gum (120 mg, 24%). LCMS (method B): RT=2.82 min, M+H+=372.

reactant | 3-amino-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 1.4 mmol, 300 mg | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)N | C11H13N3O2
reactant | trifluoro-methanesulfonic acid 2-chloro-4-isopropyl-phenyl ester | 2.3 mmol, 700 mg | ClC1=C(C=CC(=C1)C(C)C)OS(=O)(=O)C(F)(F)F | C10H10ClF3O3S
reactant | Xantphos | 0.14 mmol, 79 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | K3PO4 | 2.7 mmol, 0.58 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.068 mmol, 63 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(2-Chloro-4-isopropyl-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 120 mg, 24% | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)C(C)C)Cl | C20H22ClN3O2
